US06844344B2
Preparation of 4-(6-Fluorobenzo[b]thiophen-2-yl)piperidine.
Scheme IA, Step C: To a solution of 4-(6-fluorobenzo[b]thiophen-2-yl)-1,2,5,6-tetrahydropyridine (0.850 g, 3.64 mmol) in a 3:1 mixture of ethanol (30 mL) and 2,2,2-trifluoroethanol (10 mL) was added 10% Pd/C (0.900 g). The black slurry was stirred vigorously at room temperature under hydrogen (balloon pressure) for 1 day. The black slurry was then filtered over a pad of diatomaceous earth and washed with ethanol. The filtrate was concentrated to provide the intermediate title compound as a white solid (0.735 g, 86%). mp 115-120° C. IR (KBr) 3350 (br), 1247 cm1. Ion Spray MS 236 (M+H)+.

reactant | 4-(6-fluorobenzo[b]thiophen-2-yl)-1,2,5,6-tetrahydropyridine | 3.64 mmol, 0.850 g | FC=1C=CC2=C(SC(=C2)C2=CCNCC2)C1 | C13H12FNS
reactant | 2,2,2-trifluoroethanol | 10 mL | FC(CO)(F)F | C2H3F3O
catalyst | Pd/C | 0.900 g | [Pd] | Pd
solvent | ethanol | 30 mL | C(C)O | C2H6O
product | 4-(6-Fluorobenzo[b]thiophen-2-yl)piperidine | 0.735 g, 86% | FC=1C=CC2=C(SC(=C2)C2CCNCC2)C1 | C13H14FNS
